US05486517
Step A: Preparation of 4-(4-Chlorobutoxy)benzaldehyde
4-Hydroxybenzaldehyde (26.4 g) in dimethylformamide (50 mL) is added to sodium hydride (8.64 g of 60% in oil) in dimethylformamide (200 mL). 1-Bromo-3-chloropropane (93.2 g) is added and the mixture stirred at 60° C. for 3 hours. The mixture is poured into water (400 mL) and extracted with diethyl ether (3×150 mL). The extracts are dried over MgSO4, filtered and evaporated to leave an orange oil. The oil is distilled end 40.7 g of the title compound collected at 158°-175° C./0.7 mmHg as a yellow oil.

reactant | 4-Hydroxybenzaldehyde | 26.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium hydride | 8.64 g | [H-].[Na+]
reactant | 1-Bromo-3-chloropropane | 93.2 g | BrCCCCl | C3H6BrCl
reactant | water | 400 mL | O | H2O
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-(4-Chlorobutoxy)benzaldehyde | ClCCCCOC1=CC=C(C=O)C=C1 | C11H13ClO2
